US05569768
Ethyl 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-2-pentafluoroethyl-1H-benzimidazol-1-yl]octanoate (0.25 mmoles, 0.14 g) was dissolved in 25 ml ethanol and 1 ml 5N NaOH. The solution heated on a steam bath for 1 hour. The solvent was removed in vacuo. The residue was dissolved in water. The pH was adjusted to 3.0 using 5N HCl. The precipitate was collected and dried to yield 0.12 g of 2-[2-pentafluoroethyl-5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octanoic acid. (MS)

reactant | Ethyl 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-2-pentafluoroethyl-1H-benzimidazol-1-yl]octanoate | 0.25 mmoles, 0.14 g | N=1NN=NC1C1=C(C=CC=C1)C1=CC2=C(N(C(=N2)C(C(F)(F)F)(F)F)C(C(=O)OCC)CCCCCC)C=C1 | C26H27F5N6O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | NaOH | 5N, 1 ml | [OH-].[Na+]
product | 2-[2-pentafluoroethyl-5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octanoic acid | 0.12 g | FC(C(F)(F)F)(C1=NC2=C(N1C(C(=O)O)CCCCCC)C=CC(=C2)C2=C(C=CC=C2)C=2N=NNN2)F | C24H23F5N6O2
